US07189852B2
Preparation of 4-acetamido-5-chloro-2-methoxybenzoic acid
Methyl 4-acetamido-5-chloro-2-methoxybenzoate is stirred with aqueous sodium hydroxide until complete solution is achieved. After filtration, concentrated hydrochloric acid is added, whereupon, the product precipitates out as a white solid which is filtered off, washed and dried. 4-Acetamido-5-chloro-2-methoxybenzoic acid is crystallised from isopropanol, filtered off, washed and dried.

reactant | Methyl 4-acetamido-5-chloro-2-methoxybenzoate | C(C)(=O)NC1=CC(=C(C(=O)OC)C=C1Cl)OC | C11H12ClNO4
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-acetamido-5-chloro-2-methoxybenzoic acid | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
